US07915411B2
(4-Benzyloxy-phenyl)-(4-methyl-2-nitro-phenyl)-amine
A mixture of 4-methyl-2-nitroaniline (1.006 g, 6.612 mmol), 4-benzyloxybromobenzene (5.794 g, 22.02 mmol), cuprous iodide (62.9 mg, 0.3306 mmol), potassium carbonate (0.914 g, 6.612 mmol) and anhydrous o-xylene (18 mL) was heated at 150° for 24 hours. Added additional cuprous iodide (30 mg) and heated an additional 6 hours at 160°. The reaction was cooled to room temperature and the solvent removed by rotary evaporation under vacuum. The residue was purified by silica gel flash chromatography using 1:1 methylene chloride/hexanes as eluent to afford the title compound as a red oil which slowly crystallized (1.23 g, 56%).

reactant | 4-methyl-2-nitroaniline | 6.612 mmol, 1.006 g | CC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | 4-benzyloxybromobenzene | 22.02 mmol, 5.794 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)Br | C13H11BrO
reactant | potassium carbonate | 6.612 mmol, 0.914 g | C([O-])([O-])=O.[K+].[K+]
solvent | o-xylene | 18 mL | CC=1C=CC=CC1C | C8H10
product | (4-Benzyloxy-phenyl)-(4-methyl-2-nitro-phenyl)-amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=C(C=C(C=C1)C)[N+](=O)[O-] | C20H18N2O3
